US05659065
c) N-(tert-butoxycarbonyl)amino2(S)-{4(S)-[2(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl]-2,2-dimethyl-oxazolidin-5(S)-ylmethyl}-3-methyl-butyric acid
Water (470 ml), potassium permanganate (79.1 g) and tetrabutylammonium bromide (9.7 g) are added in succession at 0° C., with stirring, to a solution of N-(tert-butoxycarbonyl)amino-2(S)-{4(S)-[2(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl]-2,2-dimethyloxazolidin-5(S)-ylmethyl}-3-methyl-butyraldehyde (53.0 g) in toluene (470 ml). The reaction mixture is stirred for 48 hours at 0°-5° C. and then, at 10% sodium sulfite solution (1.2 liters) and, after a further 30 minutes, 10% citric acid solution (1.95 liters) and water (1.2 liters) are added. The mixture is extracted with ethyl acetate (3×2.5 liters), and the organic phases are washed with water and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. Purification of the crude product by FC (2.3 kg of silica gel, ethyl acetate/hexane 3:7) yields the pure title compound in the form of an oil (31.7 g): Rf (ethyl acetate/hexane 1:2)=0.21; Anal. C33H55NO8 (593.80): calc. C, 66.75; H, 9.34; N, 2.36; found C, 66.69; H, 9.39; N, 2.39.

reactant | potassium permanganate | 79.1 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | N-(tert-butoxycarbonyl)amino-2(S)-{4(S)-[2(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl]-2,2-dimethyloxazolidin-5(S)-ylmethyl}-3-methyl-butyraldehyde | 53.0 g | C(C)(C)(C)OC(=O)N[C@](C=O)(C(C)C)C[C@H]1[C@@H](NC(O1)(C)C)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C33H56N2O7
reactant | sodium sulfite | 1.2 liters | S(=O)([O-])[O-].[Na+].[Na+]
reactant | citric acid | 1.95 liters | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrabutylammonium bromide | 9.7 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 470 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.2 liters | O | H2O
solvent | Water | 470 ml | O | H2O
product | N-(tert-butoxycarbonyl)amino2(S)-{4(S)-[2(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-3-methyl-butyl]-2,2-dimethyl-oxazolidin-5(S)-ylmethyl}-3-methyl-butyric acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C(C)C)C[C@H]1[C@@H](NC(O1)(C)C)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C33H56N2O8
